US05217996
Nitrogen is passed through a suspension of (R)-2-(t-butoxycarbonylamino)-3-[4-(trifluoromethylsulfonyloxy)-phenyl]-propionate (1.75 mmol), phenylboronic acid (3.5 mmol), anhydrous potassium carbonate (2.63 mmol) and toluene (17 mL) for 15 minutes. Tetrakis(triphenylphosphine)palladium(0) is added, and the mixture is heated at 85°-90° for 3 hours. The reaction mixture is cooled to 25° C., diluted with ethyl acetate (17 mL) and washed sequentially with saturated sodium bicarbonate (1×20 mL), water (1×20 mL), 10% citric acid (1×20 mL), water (1×20 mL) and saturated sodium chloride solution (1×20 mL). The organic phase is concentrated, and the residue is purified by column chromatography (silica gel, hexane/ethyl acetate 2:1) to yield methyl (R)-2-(t-butoxycarbonylamino)-3-(p-phenylphenyl)-propionate which can also be called N-(R)-t-butoxycarbonyl-(p-phenylphenyl)-alanine methyl ester.

reactant | (R)-2-(t-butoxycarbonylamino)-3-[4-(trifluoromethylsulfonyloxy)-phenyl]-propionate | 1.75 mmol | C(C)(C)(C)OC(=O)N[C@@H](C(=O)[O-])CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F
reactant | phenylboronic acid | 3.5 mmol | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 2.63 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 17 mL | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (R)-2-(t-butoxycarbonylamino)-3-(p-phenylphenyl)-propionate | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC=CC=C1 | C21H25NO4
